Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transferred for GI bleed
 
Major Surgical or Invasive Procedure:
Capsule endoscopy ___

 
History of Present Illness:
___ who presented twice in the past 3 days to ___ for GI 
bleeding. No prior history of similar symptoms. Presented 
initially on ___ with BRBPR. He had a GI consult and 
colonoscopy that reportedly did not reveal active bleeding to 
terminal ileum. They saw a small clot in ascending colon though 
no lesion underneath. Colonoscopy also notable for small anal 
fissure and small internal hemorrhoids. Initially with Hct 36 
then downtrended to 25.1. He was discharged home on ___. As 
soon as he got home he had recurrence of BRBPR and presented 
back to ___ on ___. Hct then notable for 21.4 and downtrended 
to 17.7. Got transfused 1 unit, now with Hct 23.4 this morning. 
Continues to have maroon colored stools though remains 
hemodynamically stable.  
 Had an EGD evening of ___ without acute findings to ___ 
portion  
 of duodenum. CTA done without source of bleeding. There was 
concern that source of bleeding is in small bowel. GI 
recommended  
 capsule endoscopy, which cannot be performed there. They do not 
 
 want to discharge him home with outpatient capsule given 
ongoing  
 bleeding. He was transferred to ___ with GI consultation for 
capsule endoscopy.  
 Per patient, most recent H/H 8.5/24.7 at 2pm ___.  
 On arrival to the floor, initial vitals: 97.4 PO 131/76 87 22 
98 RA. He reported he had just had a moderate-volume bloody 
bowel movement. He endorsed crampy abdominal pain.  
 REVIEW OF SYSTEMS: a complete ROS was negative except as noted 
in HPI.  

 
Past Medical History:
 ETOH use  
 ADHD  
 
Social History:
___
Family History:
 paternal uncle with colon cancer in ___  
 paternal uncle with hemochromatosis  
 
Physical Exam:
Admission exam:
 Vitals:97.4 PO 131 / 76 87 22 98 RA  
 General: Alert, oriented, no acute distress PALE with pale 
conjunctiva  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, + epigastric tenderness  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact.  

Discharge exam:
Vitals- Tmax 97.6 (98.3) BP 110-120/60-80s HR 60-90s RR 19 O2 
100 on RA
General: Alert, oriented, no acute distress, pale 
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mild tenderness in RUQ
Ext: Warm, well perfused, no cyanosis or edema  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.
 
Pertinent Results:
Admission labs:
___ 11:15PM BLOOD WBC-8.1 RBC-2.18* Hgb-6.7* Hct-19.3* 
MCV-89 MCH-30.7 MCHC-34.7 RDW-13.5 RDWSD-41.9 Plt ___
___ 11:15PM BLOOD ___ PTT-26.3 ___
___ 11:15PM BLOOD Glucose-83 UreaN-14 Creat-0.8 Na-138 
K-3.8 Cl-103 HCO3-23 AnGap-16
___ 11:15PM BLOOD ALT-12 AST-17 LD(LDH)-104 AlkPhos-25* 
Amylase-35 TotBili-0.3
___ 11:15PM BLOOD Calcium-8.2* Phos-4.3 Mg-2.1 Iron-49
___ 11:15PM BLOOD calTIBC-224* Ferritn-236 TRF-172*

Discharge labs:
___ 07:23AM BLOOD WBC-5.7 RBC-2.79* Hgb-8.6* Hct-26.0* 
MCV-93 MCH-30.8 MCHC-33.1 RDW-15.8* RDWSD-52.2* Plt ___
___ 07:23AM BLOOD ___ PTT-29.5 ___
___ 07:23AM BLOOD Glucose-82 UreaN-8 Creat-0.8 Na-142 K-3.7 
Cl-104 HCO3-25 AnGap-17
___ 06:50AM BLOOD ALT-18 AST-22
___ 07:23AM BLOOD Calcium-8.7 Phos-4.9* Mg-2.___NGIOGRAM (___):
Scattered colonic diverticulosis, blood in colon and rectum, 
mild stenosis at the SMA origin and aneurysmal dilatation of the 
proximal SMA measuring 7 mm with eccentric soft plaque 
(unchanged from ___

Imaging:
Capsule endoscopy (___): Final read not available. On 
prelim read, no source of bleeding found.
 
Brief Hospital Course:
___ yo male transferred from OSH for multiple recent episodes of 
BRBPR and maroon stool, without evidence of active bleeding on 
upper endoscopy or colonoscopy, but with diverticulosis. 

#Gastrointestinal bleeding: Patient was transferred from ___ 
with abdominal pain (right>left) and multiple episodes of BRBPR 
with loose stools, where endoscopy and colonoscopy were 
unrevealing. He had light-headedness and an unstable hemoglobin 
(6.7 on admission) requiring 2U pRBC. A capsule endoscopy was 
performed on ___ and did not reveal a bleeding source. 
However, CTAP, EGD and colonoscopy at OSH only revealed 
diverticulosis, which we suspect was the likely source of 
bleeding. A capsule endoscopy revealed no active bleeding. 
Coagulation studies and platelet count were normal. His h&h was 
stable without transfusion for 48 hours prior to discharge. On 
discharge, his hemoglobin was 8.6, pain had resolved, and his 
stool was brown, non-bloody, and well-formed. We have ordered a 
repeat CBC check for one week after discharge to be followed by 
his PCP.
 Of note patient reported prolonged bleeding with shaving ___ 
minutes." One could consider a qualitative platelet disorder 
such as vWF. This could be considered for workup by PCP or 
deferred to hematology if felt appropriate. 

#Excessive alcohol intake: Reports drinking 8+ drinks, ___ 
nights per week to help relax. Last drink was more than one week 
prior to admission so he was past the theoretical window for 
significant withdrawal symptoms. He was started on a CIWA scale 
but did not demonstrate signs or symptoms concerning for 
withdrawal. He was counseled on the importance of reducing 
alcohol intake.

#Anxiety: Continued home lorazepam 1mg prn

#Family Hx of hemochromatosis: Ordered iron studies to evaluate 
for risk of hemochromatosis, but ferritin was normal (236). He 
has not had formal genetic testing. 

Transitional issues:
- Patient reports bleeding for 15 minutes when shaving, which is 
concerning for a platelet or coagulation cascade defect, which 
may require further investigation as an outpatient
- Repeat CBC in one week

#Code Status: Full presumed
#Emergency Contact/HCP: father ___ ___ (___) or brother 
___ ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam Dose is Unknown  PO Q4H:PRN anxiety 
2. TraZODone 25 mg PO QHS:PRN sleep 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO Q4H:PRN anxiety  
2.  TraZODone 25 mg PO QHS:PRN sleep  
3.Outpatient Lab Work
___:
ICD-10: ___ Diverticulosis of intestine, part unspecified, 
without perforation or abscess with bleeding
Lab test: CBC
Please fax to: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
GI bleed
Anemia

Secondary diagnosis:
Alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for bleeding in your GI tract. You received 2 
units of packed red blood cells, which helped improve your blood 
levels. You had a capsule endoscopy study to try to locate the 
source of bleeding, but no bleeding source was found. We suspect 
that the cause of your bleeding was from diverticulosis, which 
are outpouchings of your colonic wall that have a propensity to 
bleed. We recommend a high-fiber diet to help prevent possible 
episodes of inflammation.  Further, if you notice blood in your 
stool or develop light-headedness, dizziness, or weakness, we 
recommend you seek emergency medical care as this may be a sign 
of bleeding diverticula. 

It was a pleasure to take care of you. We wish you all the best. 


Sincerely,
Your ___ team
 
Followup Instructions:
___